US05204326
Preparation of Boc-Lys(Cl-Z)-Leu-Ser(Bzl)-OH
By using 4,61 g of Boc-Leu-Ser(Bzl)-OH Japanese Patent Kokai (Laid-open) No. 61-112099 (1986) and 5.61 g of Boc-Lys(Cl-Z)-OSu, and the same procedure as in Reference Example 31 was repeated to obtain 4.92 g (yield: 64.0%) of the above-mentioned objective product.

reactant | Boc-Leu-Ser(Bzl)-OH | 4,61 g | N([C@@H](CC(C)C)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C21H32N2O6
reactant | Boc-Lys(Cl-Z)-OSu | 5.61 g | N([C@@H](CCCCNC(=O)OCC1=C(Cl)C=CC=C1)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C23H30ClN3O8
product | Boc-Lys(Cl-Z)-Leu-Ser(Bzl)-OH | 4.92 g, yield: 64.0% | N([C@@H](CCCCNC(=O)OCC1=C(Cl)C=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C35H49ClN4O9
